US04007190
EXAMPLE 24 3,6-Bis(1-trifluoroacetyl-5-chloro-2-piperidinyl)-2,5-Piperazinedione
One mole of 3,6-bis(5-chloro-2-piperidinyl)-2,5-piperazinedione is stirred in 100 parts of pyridine and 5 moles of trifluoroacetic anhydride are added. After stirring 15 hours, the volatiles are removed in vacuo and the residue is crystallized from methanol.

reactant | 3,6-bis(5-chloro-2-piperidinyl)-2,5-piperazinedione | One mole | ClC1CCC(NC1)C1C(NC(C(N1)=O)C1NCC(CC1)Cl)=O | C14H22Cl2N4O2
reactant | trifluoroacetic anhydride | 5 moles | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,6-Bis(1-trifluoroacetyl-5-chloro-2-piperidinyl)-2,5-Piperazinedione | FC(C(=O)N1C(CCC(C1)Cl)C1C(NC(C(N1)=O)C1N(CC(CC1)Cl)C(C(F)(F)F)=O)=O)(F)F | C18H20Cl2F6N4O4
